US08084621B2
Synthesis of N-(2-(dimethylamino)ethyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (II-3)
Similar procedure as Example 2, 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4) 0.2 g (1.0 mmol) and N1,N1-dimethylethane-1,2-diamine 0.19 g (2.1 mmol) was reacted to give 0.21 g (80%) of the titled compound as a white solid.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1.0 mmol, 0.2 g | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
reactant | N1,N1-dimethylethane-1,2-diamine | 2.1 mmol, 0.19 g | CN(CCN)C | C4H12N2
product | N-(2-(dimethylamino)ethyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.21 g, 80% | CN(CCNC(=O)C1=C(NC=2C(CCCC12)=O)C)C | C14H21N3O2
